US07459567B2
Methyl [4-(2-chlorophenyl)-2-(4-propoxyphenyl)thien-3-yl]acetate (0.290 g, 0.725 mmol) was dissolved in EtOH (6 mL). NaOH (2.17 mL, 1N, 2.17 mmol) was added and the solution heated to reflux for 5 h. HCl (2.17 mL, 2N, 4.34 mmol) was added and the solvent removed. The mixture was partioned between EtOAc and H2O. The EtOAc layer was dried (MgSO4) and the solvent removed to yield [4-(2-chlorophenyl)-2-(4-propoxyphenyl)thien-3-yl]acetic acid (0.262 g) as a clear oil. 1H NMR (500 MHz, DMSO-d6) δ: 0.95 (t, 3H, J=7.44 Hz), 1.70 (m, 2H), 3.30 (s, 2H), 3.93 (t, 2H, J=6.47 Hz), 6.99 (d, 2H, J=8.78 Hz), 7.28 (dd, 1H, J=1.71 and 7.20 Hz), 7.38 (m, 5H), 7.51 (dd, 1H, J=1.71 and 7.44 Hz), 12.11 (bs, 1H). MS (ES) m/z 387.0 ([M+H]+). MS (ES) m/z 404.1 ([M+NH4]+).

reactant | Methyl [4-(2-chlorophenyl)-2-(4-propoxyphenyl)thien-3-yl]acetate | 0.725 mmol, 0.290 g | ClC1=C(C=CC=C1)C=1C(=C(SC1)C1=CC=C(C=C1)OCCC)CC(=O)OC | C22H21ClO3S
reactant | NaOH | 2.17 mmol, 1N, 2.17 mL | [OH-].[Na+]
reactant | HCl | 4.34 mmol, 2N, 2.17 mL | Cl | ClH
solvent | EtOH | 6 mL | CCO | C2H6O
product | [4-(2-chlorophenyl)-2-(4-propoxyphenyl)thien-3-yl]acetic acid | 0.262 g | ClC1=C(C=CC=C1)C=1C(=C(SC1)C1=CC=C(C=C1)OCCC)CC(=O)O | C21H19ClO3S
